US05739336
A mixture of tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decane-carboxylate (4.9 g, 18.2 mmol), dimethylsulfate (2.9 g, 23 mmol), potassium carbonate (10.8 g, 78.3 mmol) and DMF (60 mL) was stirred approximately 60 hours at 25° C. The mixture was concentrated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, washed with water (3×), dried (Na2SO4), filtered and concentrated to give tert-butyl 2,4-dioxo-3-methyl-1,3,8-triaza-8-spiro[4.5]decanecarboxylate (4.7 g, 16.6 mmol), m.p. 206°-208° C.

reactant | tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decane-carboxylate | 18.2 mmol, 4.9 g | O=C1NC2(C(N1)=O)CCN(CC2)C(=O)OC(C)(C)C | C12H19N3O4
reactant | dimethylsulfate | 23 mmol, 2.9 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 78.3 mmol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2,4-dioxo-3-methyl-1,3,8-triaza-8-spiro[4.5]decanecarboxylate | 16.6 mmol, 4.7 g | O=C1NC2(C(N1C)=O)CCN(CC2)C(=O)OC(C)(C)C | C13H21N3O4
